*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/8.20e-05[uF]/630[V]
* Murata P/N :GCM21A5C2J820FX01
* Property : C = 8.20e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J820FX01 Port1 Port2
C01 Port1 N01 8.20e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 3.34e-10
R03 N02 N03 1.23e-01
C04 N03 N04 5.15e-08
R04 N03 N04 2.88e-01
C05 N04 N05 4.27e-06
R05 N04 N05 1.75e-03
C06 N05 N06 5.70e-10
L06 N05 N06 1.20e-11
R06 N05 N06 7.27e-01
C07 N06 N07 7.17e-11
L07 N06 N07 3.38e-11
R07 N06 N07 2.68e+00
C08 N07 Port2 1.50e-12
L08 N07 Port2 2.34e-10
R08 N07 Port2 7.54e+01
.ENDS GCM21A5C2J820FX01
